US04367230
To a solution of 50 g of N-benzyl-tryptamine hydrochloride (i.e., 3-(2-(benzylamino)-ethyl)indole hydrochloride) in 500 ml of methanol-water (4:1) are added 57.9 g of N-benzyloxycarbonyl-aminoacetaldehyde diethylacetal and 25 ml of 10% hydrochloric acid, and the mixture is refluxed for 16 hours. After the reaction, the reaction mixture is evaporated under reduced pressure to remove solvent, and the resultant crystals are collected by filtration. After being washed with water and ether, said crystals are added to a saturated sodium bicarbonate solution, and then extracted with ethyl acetate. The extract is washed with water, dried and then evaporated to remove solvent. The residue (oil, 60 g) is purified by silica gel chromatography (Solvent: chloroform-methanol (20:1)). 46 g of 1,2,3,4-tetrahydro-1-((N-benzyloxycarbonylamino)methyl)-2-benzyl-β-carboline are thereby obtained as a caramel. Yield: 62%

reactant | N-benzyl-tryptamine hydrochloride | 50 g | Cl.C(C1=CC=CC=C1)NCCC1=CNC2=CC=CC=C12
reactant | N-benzyloxycarbonyl-aminoacetaldehyde diethylacetal | 57.9 g | C(C)OC(CNC(=O)OCC1=CC=CC=C1)OCC | C14H21NO4
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | methanol water | 500 ml | CO.O
product | 1,2,3,4-tetrahydro-1-((N-benzyloxycarbonylamino)methyl)-2-benzyl-β-carboline | 46 g, Yield: 62% | C(C1=CC=CC=C1)OC(=O)NCC1N(CCC=2C3=CC=CC=C3NC12)CC1=CC=CC=C1 | C27H27N3O2
